US07285551B2
Step 1: Production of 3,3′-difluorobenzhydrol
To a stirred solution of magnesium strip (35.4 g) in THF (200 ml), iodine strip was added and the mixture was heated with stirring under nitrogen stream until most of color of iodine was disappeared. A solution of 3-fluoro-bromobenzene (250.0 g) in THF (1000 ml) was added dropwise over 2.5 hr while the temperature of the solution was maintained at 60° C., After the completion of the addition of the solution, the resulting mixture was refluxed for 1 hr with heating. The resulting Grignard solution was ice-cooled and a solution of ethyl formate (63.2 g) in THF (200 ml) was added dropwise over 1 hr. After a stirring of the reaction solution for an additional 30 min, saturated aqueous ammonium chloride solution (700 ml) was added dropwise with ice-cooling and water (300 ml) was added. The mixture was stirred for 10 min. The organic layer and water layer were separated. Water layer was extracted with ethyl acetate, and the combined organic layer was washed with 2N hydrochloric acid, saturated aqueous sodium hydrogencarbonate and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the solvent was evaporated off under reduced pressure to give the title compound (156.2 g, yield 99%).

reactant | magnesium | [Mg] | Mg
reactant | iodine | II | I2
reactant | 3-fluoro-bromobenzene | 250.0 g | FC=1C=C(C=CC1)Br | C6H4BrF
reactant | ethyl formate | 63.2 g | C(=O)OCC | C3H6O2
reactant | ammonium chloride | 700 ml | [Cl-].[NH4+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 1000 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | 3,3′-difluorobenzhydrol | 156.2 g, yield 99% | FC=1C=C(C(C2=CC(=CC=C2)F)O)C=CC1 | C13H10F2O
